US04939253
(C) 3S(Z)]-[[3-[[(2-Amino 4-thiazolyl)(methoxyimino)acetyl]amino]-2-oxo-1-azetidinyl]oxy]acetic acid, 1,1-dimethylethyl ester
(S)-[[3-[(Benzyloxycarbonyl)amino]-2-oxo1-azetidinyl]oxy]acetic acid. 1,1-dimethylethyl ester (1.4 g, 4.0 mmol) was dissolved in 25 ml of dry dimethylformamide and hydrogenated with 1 g of 10% palladium on charcoal as catalyst. After 20 minutes the catalyst was filtered and a mixture of (Z)-2-amino-α-(methoxyimino)-4-thiazoleacetic acid (4.4 mmol). 1-hydroxybenzotriazole hydrate (0.15 g, 1.0 mmol). dicyclohexylcarbodiimide (0.81g. 4.4 mmol) and 30 ml of dry dimethylformamide was added. The mixture was stirred overnight at room temperature. The precipitated dicyclohexyl urea was filtered off and the solvent removed in vacuo. The residue was dissolved in ethyl acetate, washed with 5% NaHCO3 and dried over MgSO4. Filtration and evaporation in vacuo gave the title compound which solidified by stirring with ether/petroleum ether; melting point 120° C. dec.

reactant | (S)-[[3-[(Benzyloxycarbonyl)amino]-2-oxo1-azetidinyl]oxy]acetic acid. 1,1-dimethylethyl ester | 4.0 mmol, 1.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(C1)OCC(=O)OC(C)(C)C)=O | C17H22N2O6
reactant | (Z)-2-amino-α-(methoxyimino)-4-thiazoleacetic acid | 4.4 mmol | NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C6H7N3O3S
reactant | 1-hydroxybenzotriazole hydrate | 1.0 mmol, 0.15 g | O.ON1N=NC2=C1C=CC=C2
reactant | dicyclohexylcarbodiimide | 4.4 mmol, 0.81g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | [[3-[[(2-Amino 4-thiazolyl)(methoxyimino)acetyl]amino]-2-oxo-1-azetidinyl]oxy]acetic acid, 1,1-dimethylethyl ester | NC=1SC=C(N1)C(C(=O)NC1C(N(C1)OCC(=O)OC(C)(C)C)=O)=NOC | C15H21N5O6S
